US08067445B2
Step 3: [2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: [2′-ethylaminomethyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester and cyclopropanecarbonyl chloride.

reactant | [2′-ethylaminomethyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NN(C1)C)CNCC)=O | C24H29N3O3
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | [2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NN(C1)C)CN(CC)C(=O)C1CC1)=O | C28H33N3O4
